US07851473B2
N-{4-[Acetyl(methyl)amino]phenyl}-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl {4-[acetyl(methyl)amino]phenyl}carbamate (200 mg, 0.589 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (145 mg, 0.589 mmol), diisopropylethylamine (0.103 ml, 0.589 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (47.3 mg, 18.3%) as a solid.

reactant | 2,2,2-trichloroethyl {4-[acetyl(methyl)amino]phenyl}carbamate | 0.589 mmol, 200 mg | C(C)(=O)N(C1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O)C | C12H13Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.589 mmol, 145 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.589 mmol, 0.103 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-{4-[Acetyl(methyl)amino]phenyl}-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | C(C)(=O)N(C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C22H24N6O2S
